US05004751
Preparation of 2-benzylthiobenzothiazole.
To a solution of 2-benzothiazolthiol (250 g) in N,N-dimethylformamide (1 1) was added triethylamine (208 ml) under ice-cooling and dropwise a solution of benzyl bromide (178 ml) in N,N-dimethylformamide (300 ml) and the mixture was stirred for 40 minutes. The resulting solution was poured into water (10 l) and the formed precipitate was separated by filtration and dissolved in dichloromethane (3 l). After drying over anhydorpus magnesium sulfate, dichloromethane was removed in vacuo to give 378 g of the objective compound.

reactant | 2-benzothiazolthiol | 250 g | S1C(=NC2=C1C=CC=C2)S | C7H5NS2
reactant | triethylamine | 208 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 178 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 l | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-benzylthiobenzothiazole | 378 g | C(C1=CC=CC=C1)SC=1SC2=C(N1)C=CC=C2 | C14H11NS2
